US05173489
9,9-Bis(4-pyridinylmethyl)cyclopentadienylphenanthrene
The title compound was prepared following the procedure of Example 1 from 5.0 g (0.0263 m) of cyclopentadienylphenanthrene, 9.51 g (58 mmole) 4-picolylchloride .HCl, 11.1 ml 50% sodium hydroxide, 1.2 g benzyltriethylammonium chloride, and 100 ml toluene by reaction at 50° for 6 hrs. The material was chromatographed (silica, EtOAc/MeOH,95:5) to yield 1.9 g of product, m.p. 201°-202°.

reactant | cyclopentadienylphenanthrene | 5.0 g | C1(C=CC=C1)C1=CC=CC=2C3=CC=CC=C3C=CC12 | C19H14
reactant | 4-picolylchloride | 58 mmole, 9.51 g | N1=CC=C(C=C1)CCl | C6H6ClN
reactant | HCl | Cl | ClH
reactant | sodium hydroxide | 11.1 ml | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 1.2 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 9,9-Bis(4-pyridinylmethyl)cyclopentadienylphenanthrene | N1=CC=C(C=C1)CC1(C2=CC=CC=C2C=2C=CC=C(C2C1)C1C=CC=C1)CC1=CC=NC=C1 | C31H26N2
